US07608723B2
To a solution of 1-(5-chloro-1H-indole-2-yl)-2-methylpropan-1-one (1 mmol) in 15 mL of DMF, was added KOH (2 mmol) at 0° C. The mixture was stirred for 30 min., followed by adding benzyl bromide (2 mmol) slowly. The mixture was warmed up to room temperature and stirred for additional 1 h. The solution was poured into water, and extracted with EtOAc (×3). The organic layers were combined, washed with H2O (×3), brine (×3), dried (Na2SO4), filtered, and the filtrate was concentrated. The material was purified by flash chromatography (10% EtOAc:hexane) to yield 1-(1-benzyl-5-chloro-1H-indole-2-yl)-2-methylpropan-1-one.

reactant | 1-(5-chloro-1H-indole-2-yl)-2-methylpropan-1-one | 1 mmol | ClC=1C=C2C=C(NC2=CC1)C(C(C)C)=O | C12H12ClNO
reactant | KOH | 2 mmol | [OH-].[K+]
reactant | benzyl bromide | 2 mmol | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | O | H2O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 1-(1-benzyl-5-chloro-1H-indole-2-yl)-2-methylpropan-1-one | C(C1=CC=CC=C1)N1C(=CC2=CC(=CC=C12)Cl)C(C(C)C)=O | C19H18ClNO
